US09085582B2
(S)-6-(4-Chlorophenyl)-4-(2-(ethylamino)-2-oxoethyl)-1-methyl-4H-benzo[f][1,2,4]triazolo[4,3-a][1,4]diazepin-8-yl trifluoromethanesulfonate (for a preparation see intermediate 3) (500 mg), 4-formylphenylboronic acid (166 mg), potassium carbonate (638 mg) and bis(triphenylphosphine)palladium(II) chloride (64.8 mg) were added to a 20 ml microwave vial. Ethanol (9 ml) and toluene (9 ml) were added to the vial. The reaction mixture was heated in a microwave at 120° C. for 20 min. The reaction mixture was filtered through Celite™ and the filter bed was washed with ethanol. The solvent was evaporated, and the residue was chromatographed (0-5% methanol:DCM) to give (S)-2-(6-(4-chlorophenyl)-8-(4-formylphenyl)-1-methyl-4H-benzo[f][1,2,4]triazolo[4,3-a][1,4]diazepin-4-yl)-N-ethylacetamide (327 mg) as a brown solid. LCMS (formate): MH+ 498/500, RT 0.98 min

reactant | (S)-6-(4-Chlorophenyl)-4-(2-(ethylamino)-2-oxoethyl)-1-methyl-4H-benzo[f][1,2,4]triazolo[4,3-a][1,4]diazepin-8-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC=1C=CC2=C(C(=N[C@H](C=3N2C(=NN3)C)CC(=O)NCC)C3=CC=C(C=C3)Cl)C1)(F)F | C22H19ClF3N5O4S
reactant | 4-formylphenylboronic acid | 166 mg | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | potassium carbonate | 638 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethanol | 9 ml | C(C)O | C2H6O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 64.8 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-2-(6-(4-chlorophenyl)-8-(4-formylphenyl)-1-methyl-4H-benzo[f][1,2,4]triazolo[4,3-a][1,4]diazepin-4-yl)-N-ethylacetamide | 327 mg | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)C3=CC=C(C=C3)C=O)C(=NN2)C)CC(=O)NCC | C28H24ClN5O2
